US08097759B2
2-Acetoxy-N-[2,5-bis(trifluoromethyl)phenyl]-5-chlorobenzamide (Compound No. 103)
Using N-[2,5-bis(trifluoromethyl)phenyl] 5-chloro-2-hydroxybenzamide and acetyl chloride as the raw materials, the same operation as the example 96 gave the title compound.

reactant | N-[2,5-bis(trifluoromethyl)phenyl] 5-chloro-2-hydroxybenzamide | FC(C1=C(C=C(C=C1)C(F)(F)F)NC(C1=C(C=CC(=C1)Cl)O)=O)(F)F | C15H8ClF6NO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 2-Acetoxy-N-[2,5-bis(trifluoromethyl)phenyl]-5-chlorobenzamide | Yield: 6.6% | C(C)(=O)OC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)Cl | C17H10ClF6NO3
